US05486618
1-Phenyl-4-cyano-5-(n-propylcarbonylamino)-pyrazole
6.8 ml (66 mmol) of butyryl chloride were added to a solution of 5.52 g (30 mmol) of 1-phenyl-4-cyano-5-aminopyrazole [known from J. Org. Chem. 21 (1956), 1240] in 70 ml of pyridine. The mixture was heated for 15 hours at 50° C. and then poured into 500 ml of 5% strength by weight aqueous hydrochloric acid. The product was extracted from the aqueous phase with methylene chloride and then isolated in a conventional manner. Yield: 50%.

reactant | butyryl chloride | 66 mmol, 6.8 ml | C(CCC)(=O)Cl | C4H7ClO
reactant | 1-phenyl-4-cyano-5-aminopyrazole | 30 mmol, 5.52 g | C1(=CC=CC=C1)N1N=CC(=C1N)C#N | C10H8N4
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | 1-Phenyl-4-cyano-5-(n-propylcarbonylamino)-pyrazole | Yield: 50% | C1(=CC=CC=C1)N1N=CC(=C1NC(=O)CCC)C#N | C14H14N4O
